US04471116
4-[4-methoxyphenyl]-N-(1-methylethyl)butylamine (10 g) was added to 48% hydrobromic acid solution (70 ml) and the mixture was refluxed for 3 hours. The residual hydrobromic hydrogen acid was distilled off in vacuo and the residue was made alkaline with 10% sodium carbonate solution. The product was filtered, washed with water and dried to give 5.0 g of 4-[4-(1-methylethyl)aminobutyl]phenol. Mass spectrum and gas chromatography confirmed the identity and purity (93.5%) of the product.

reactant | 4-[4-methoxyphenyl]-N-(1-methylethyl)butylamine | 10 g | COC1=CC=C(C=C1)CCCCNC(C)C | C14H23NO
solvent | hydrobromic acid | 70 ml | Br | BrH
product | 4-[4-(1-methylethyl)aminobutyl]phenol | 5.0 g | CC(C)NCCCCC1=CC=C(C=C1)O | C13H21NO
